US08404709B2
4-(4-Cyano-2-methoxyphenyl)-5-oxo-2-(trifluoromethyl)-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile
500 mg (3.1 mmol) of 4-formyl-3-methoxybenzonitrile are dissolved with 493 mg (3.1 mmol) of sodium 1-cyano-3,3,3-trifluoroprop-1-en-2-olate, 341 mg (3.1 mmol) of 4-aminopyridin-2(1H)-one [Searls, T., McLaughlin, L. W., Tetrahedron 55, 11985-11996 (1999)] and 266 μl (4.65 mmol) of acetic acid in 40 ml of isopropanol and heated under reflux under argon for 12 h. After cooling, the solution is concentrated, and the residue is again stirred in 45 ml of acetic acid under reflux overnight. The solution is cooled and then concentrated, and the residue is purified by preparative HPLC. 392 mg (34% of theory) of the title compound are obtained as a white solid.

reactant | 4-formyl-3-methoxybenzonitrile | 3.1 mmol, 500 mg | C(=O)C1=C(C=C(C#N)C=C1)OC | C9H7NO2
reactant | sodium 1-cyano-3,3,3-trifluoroprop-1-en-2-olate | 3.1 mmol, 493 mg | C(#N)C=C(C(F)(F)F)[O-].[Na+]
reactant | 4-aminopyridin-2(1H)-one | 3.1 mmol, 341 mg | NC1=CC(NC=C1)=O | C5H6N2O
reactant | acetic acid | 4.65 mmol, 266 μl | C(C)(=O)O | C2H4O2
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 4-(4-Cyano-2-methoxyphenyl)-5-oxo-2-(trifluoromethyl)-1,4,5,6-tetrahydro-1,6-naphthyridine-3-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2C=CNC(C12)=O)C(F)(F)F)C#N)OC | C18H11F3N4O2
